US05872136
Step D: 2-Phenyl-5-hydroxymethylpyridine
To a solution of 2-phenyl-5-carboxypyridine (520 mg, 2.61 mmol) in tetrahydrofuran (10 mL) at 0° C. was added 1.0M lithium aluminum hydride in tetrahydrofuran (2.61 mL, 2.61 mmol) over 10 minutes. The reaction was allowed to stir at ambient temperature for 16 hours, cooled to 0° C., and quenched by dropwise addition of water (0.20 mL), 4N aq. NaOH (0.20 mL), and water (0.60 mL). The reaction was filtered through a pad of Celite and the filtrate evaporated in vacuo. The residue was chromatographed (silica gel, 0-5% MeOH in CH2Cl2) to afford the title compound.

reactant | 2-phenyl-5-carboxypyridine | 2.61 mmol, 520 mg | C1(=CC=CC=C1)C1=NC=C(C=C1)C(=O)O | C12H9NO2
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.61 mmol, 2.61 mL | O1CCCC1 | C4H8O
product | 2-Phenyl-5-hydroxymethylpyridine | C1(=CC=CC=C1)C1=NC=C(C=C1)CO | C12H11NO
